US09353108B2
L) 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
2M aqueous sodium hydroxide solution (25 mL) was added to a solution of ethyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (7.98 g) in ethanol (65 mL) at room temperature. The mixture was stirred at 80° C. under nitrogen atmosphere for 2 hours and concentrated in vacuo. The residue was dissolved in water. The solution was adjusted to neutral with 2M hydrochloric acid to give colorless crystals. After filtration, the crystals was dissolved in ethanol. The solution was filtrated and the filtrate was concentrated in vacuo. The residue was crystallized from ethyl acetate-hexane to give a colorless solid. The solid was recrystallized from ethanol-hexane to give the title compound (7.16 g).

reactant | sodium hydroxide | 2M, 25 mL | [OH-].[Na+]
reactant | ethyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 7.98 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OCC)=O | C37H43F2N3O4
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 7.16 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)O)=O | C35H39F2N3O4
